US06538007B1
A mixture of 3-(4-pyridyl)-2-propenoic acid (10 g) , 10% Pd—C (1 g) in acetic acid (40 ml) was hydrogenated (3.0 kg/cm2) at 65° C. for 8 hours. After the catalyst was removed by filtration, the filtrate was concentrated in vacuo. The residue was resolved in toluene (30 ml) and concentrated in vacuo. The residue was resolved in water (30 ml) and tetrahydrofuran (50 ml), cooled to 0° C., and triethylamine (33 g) was added dropwise at 5° C. Di-t-butyl dicarbonate (18.3 g) was added to the mixture at 20° C. and stirred overnight. PH was adjusted to 7 with HCl, organic layer was washed with 10% aqueous citric acid (40 ml), 5% aqueous sodium chloride (40 ml), dried over magnesium sulfate (5 g) and concentrated in vacuo. The residue was resolved in toluene (20 ml), concentrated in vacuo to 25 ml. The mixture was stirred at 40° C. for 3 hours, n-heptane (20 ml) was added to the mixture and stirred at 0° C. overnight. The precipitate was separated and dried to give 3-(1-tert-butoxycarbonyl-4-piperidyl)propionic acid as white solid (12.8 g).

reactant | 3-(4-pyridyl)-2-propenoic acid | 10 g | N1=CC=C(C=C1)C=CC(=O)O | C8H7NO2
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
catalyst | Pd—C | 1 g | [Pd] | Pd
product | 3-(1-tert-butoxycarbonyl-4-piperidyl)propionic acid | 12.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
